US04552866
(D) N-[N-[(3S)-3-[[(t-Butyloxy)carbonyl]amino]-2-hydroxybutyl]-L-phenylalanyl-L-leucine, t-butyl ester
To a solution of N-[N-[(S)-3-[[(t-butyloxy)carbonyl]amino]-2-oxobutyl]-L-phenylalanyl]-L-leucine, t-butyl ester (1.50 g, 2.89 mmol) in 15 ml of methanol at 0° C. was added sodium borohydride (109 mg, 2.89 mmol) in six portions over approximately 5 minutes. After 15 minutes, the solvent was evaporated. The residue was taken up into ethyl acetate (100 ml), washed with water until the extracts were neutral, washed with brine and then dried (sodium sulfate) and evaporated to give 1.41 g of the title compound as a mixture of diastereomers.

reactant | N-[N-[(S)-3-[[(t-butyloxy)carbonyl]amino]-2-oxobutyl]-L-phenylalanyl]-L-leucine, t-butyl ester | 2.89 mmol, 1.50 g | C(C)(C)(C)OC(=O)N[C@H](C(CN[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OC(C)(C)C)=O)C | C28H45N3O6
reactant | sodium borohydride | 2.89 mmol, 109 mg | [BH4-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | N-[(3S)-3-[[(t-Butyloxy)carbonyl]amino]-2-hydroxybutyl]-L-phenylalanyl-L-leucine, t-butyl ester | 1.41 g | C(C)(C)(C)OC(=O)N[C@H](C(CN[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OC(C)(C)C)O)C | C28H47N3O6
